US07897607B2
3-Ethyl-5-mesityl-7-methyl-2-(propylamino)-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
To a solution of 2-amino-3-ethyl-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (80 mg, 0.26 mmol) and N,N-dimethylformamide (3 ml) was added sodium hydride (60% in oil, 40 mg, 1.0 mmol) at 0° C. and stirred for 0.5 hour. After stirring at room temperature for 0.5 hour, to the mixture was added a solution of n-PrI (170 mg, 1.0 mmol) and N,N-dimethylformamide (2 ml) at 0° C. and stirred for 0.5 hour. After stirring at 50° C. for 3 hours, the mixture was cooled and diluted with water (20 ml) and extracted with ethyl acetate (50 ml×2). The extracts were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (20:1) to give 25 mg (25%) of the title compound.

reactant | 2-amino-3-ethyl-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.26 mmol, 80 mg | NC=1N(C(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O)CC | C18H22N4O
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 1.0 mmol, 40 mg | [H-].[Na+]
reactant | n-PrI | 1.0 mmol, 170 mg | C(CC)I | C3H7I
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 3-Ethyl-5-mesityl-7-methyl-2-(propylamino)-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 25 mg, 25% | C(C)N1C(=NC2=C(C1=O)C(=CN2C)C2=C(C=C(C=C2C)C)C)NCCC | C21H28N4O
